US09388161B2
A 100-mL, round-bottom flask was charged with 1-((S)-6-bromo-2-methyl-5-(7-(tetrahydro-2H-pyran-2-yl)-7H-purin-2-yloxy)-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.200 g, 0.41 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.030 g, 0.04 mmol), potassium carbonate (0.170 g, 1.23 mmol), 1-cyclopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.288 g, 1.23 mmol), 1,4-dioxane (20 mL), and water (2 mL). The resulting mixture stirred overnight at 100° C. After cooling to room temperature, the reaction mixture was passed through a short pad of Celite, and the filtrate was concentrated under vacuum. The residue was purified by preparative thin layer chromatography (eluting with 1:2, ethyl acetate/petroleum ether) to afford 1-((S)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-5-(7-(tetrahydro-2H-pyran-2-yl)-7H-purin-2-yloxy)-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.150 g, 71%) as light yellow oil. MS (ESI, pos. ion) m/z 514 [M+H]+.

reactant | 1-((S)-6-bromo-2-methyl-5-(7-(tetrahydro-2H-pyran-2-yl)-7H-purin-2-yloxy)-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.41 mmol, 0.200 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OC1=NC=C2N(C=NC2=N1)C1OCCCC1 | C22H24BrN5O3
reactant | potassium carbonate | 1.23 mmol, 0.170 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-cyclopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.23 mmol, 0.288 g | C1(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H19BN2O2
reactant | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.04 mmol, 0.030 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 2 mL | O | H2O
product | 1-((S)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-5-(7-(tetrahydro-2H-pyran-2-yl)-7H-purin-2-yloxy)-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.150 g, 71% | C1(CC1)N1N=CC(=C1)C=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OC1=NC=C2N(C=NC2=N1)C1OCCCC1 | C28H31N7O3
